US06156700
Preparation of {{5-[3,6-Dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazol-3-yl}methyl}trimethylammonium bromide
A mixture of 3-[3-(bromomethyl)-1,2-benzisothiazol-5-yl]-1-methyl-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione (20.0 g, 0.0480 mol) and toluene is heated to 90° C., cooled to room temperature, treated with liquid trimethylamine (8.60 g, 0.145 mol), stirred at room temperature for 90 minutes, and filtered to obtain a solid. The solid is washed with toluene and dried in a vacuum oven at 45-50° C. to give the title product as a white solid which is identified by NMR spectral analysis.

reactant | 3-[3-(bromomethyl)-1,2-benzisothiazol-5-yl]-1-methyl-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione | 0.0480 mol, 20.0 g | BrCC1=NSC2=C1C=C(C=C2)N2C(N(C(=CC2=O)C(F)(F)F)C)=O | C14H9BrF3N3O2S
reactant | trimethylamine | 0.145 mol, 8.60 g | CN(C)C | C3H9N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | {{5-[3,6-Dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazol-3-yl}methyl}trimethylammonium bromide | [Br-].CN1C(N(C(C=C1C(F)(F)F)=O)C=1C=CC2=C(C(=NS2)C[N+](C)(C)C)C1)=O | InChI=1S/C17H18F3N4O2S.BrH/c1-22-14(17(18,19)20)8-15(25)23(16(22)26)10-5-6-13-11(7-10)12(21-27-13)9-24(2,3)4;/h5-8H,9H2,1-4H3;1H/q+1;/p-1
